US07951810B2
Step d: (2R,3S,4R,5R)-2-{6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-9H-purin-9-yl}-5-{[(triisopropylsilyl)oxy]methyl}tetrahydrofuran-3,4-diyl diacetate
(2R,3S,4R,5R)-2-(6-Bromo-9H-purin-9-yl)-5-{[(triisopropylsilyl)oxy]methyl}-tetrahydrofuran-3,4-diyl diacetate (0.402 g, 0.703 mmol) was stirred in ethanol (10 mL) and S-(+)-1-aminoindan (0.14 mL, 1.06 mmol) was added followed by triethylamine (0.2 mL, 1.41 mmol). The reaction mixture was heated at overnight. The brown solution was concentrated and purified by flash chromatography, eluting with 10 to 35% ethyl acetate/hexanes to give the title compound as a white solid (0.142 g) and deacylated product (0.161 g, 37%).

reactant | (2R,3S,4R,5R)-2-(6-Bromo-9H-purin-9-yl)-5-{[(triisopropylsilyl)oxy]methyl}-tetrahydrofuran-3,4-diyl diacetate | 0.703 mmol, 0.402 g | C(C)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)CO[Si](C(C)C)(C(C)C)C(C)C)N1C2=NC=NC(=C2N=C1)Br | C23H35BrN4O6Si
reactant | triethylamine | 1.41 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | (2R,3S,4R,5R)-2-{6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-9H-purin-9-yl}-5-{[(triisopropylsilyl)oxy]methyl}tetrahydrofuran-3,4-diyl diacetate | 0.142 g | C(C)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)CO[Si](C(C)C)(C(C)C)C(C)C)N1C2=NC=NC(=C2N=C1)N[C@H]1CCC2=CC=CC=C12 | C32H45N5O6Si
